US05219868
A mixture of 5.0 g of p-aminoacetophenone. 6.6 g of ethyl orthoformate, 5 ml of 1,3-dimethyl-2-imidazolidinone and 0.03 g of concentrated sulfuric acid was placed in a reactor equipped with Dean's stark tube and agitated at 140° C. for about 10 minutes, followed by further addition of 5.8 g of nitroiminoimidazolidine and agitation at 160° C. for 1 hour. The reaction mixture was poured into 200 ml of a saturated saline solution, to which 150 ml of ethyl acetate was added. The resultant crystals were collected by filtration, and dried to give 5.4 g of 1-(4-methylcarbonyl-phenyliminomethyl)-2-nitroiminoimidazolidine.

reactant | p-aminoacetophenone | 5.0 g | NC1=CC=C(C=C1)C(C)=O | C8H9NO
reactant | ethyl orthoformate | 6.6 g | C(OCC)([O-])[O-]
reactant | 1,3-dimethyl-2-imidazolidinone | 5 ml | CN1C(N(CC1)C)=O | C5H10N2O
reactant | nitroiminoimidazolidine | 5.8 g | [N+](=O)([O-])N=C1NCCN1 | C3H6N4O2
catalyst | sulfuric acid | 0.03 g | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-methylcarbonyl-phenyliminomethyl)-2-nitroiminoimidazolidine | 5.4 g | CC(=O)C1=CC=C(C=C1)N=CN1C(NCC1)=N[N+](=O)[O-] | C12H13N5O3
